US04025647
30% w/v Aqueous hydrogen peroxide solution (70 μl.) is added to a suspension of 2'-trifluoromethyl-4'-(4-bromophenylthio)-5-cyano-3-t-butyl-6-methylsalicylanilide (0.25 g.) in acetic acid (4 ml.), and the mixture heated at 70°-80° C. for 1 hour. Water (2 ml.) is then added and the solution is cooled slowly to room temperature. The crystalline solid which is thus obtained is separated by filtration and dried to give 2'-trifluoromethyl-4'-(4-bromophenylsulphinyl)-5-cyano-3-t-butyl-6-methylsalicylanilide, m.p. 178°-180° C.

reactant | hydrogen peroxide | 70 μl | OO | H2O2
reactant | 2'-trifluoromethyl-4'-(4-bromophenylthio)-5-cyano-3-t-butyl-6-methylsalicylanilide | 0.25 g | FC(C1=C(NC(C=2C(O)=C(C=C(C2C)C#N)C(C)(C)C)=O)C=CC(=C1)SC1=CC=C(C=C1)Br)(F)F | C26H22BrF3N2O2S
reactant | Water | 2 ml | O | H2O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 2'-trifluoromethyl-4'-(4-bromophenylsulphinyl)-5-cyano-3-t-butyl-6-methylsalicylanilide | FC(C1=C(NC(C=2C(O)=C(C=C(C2C)C#N)C(C)(C)C)=O)C=CC(=C1)S(=O)C1=CC=C(C=C1)Br)(F)F | C26H22BrF3N2O3S
